US07576108B2
a: (Z)-3-Cyclopentyl-2-(5-methanesulfonyl-thiophen-2-yl)-prop-2-en-1-ol
According to method 17a was used 2-bromo-5-methanesulfonyl-thiophene (593 mg, 2.46 mmol), caesium fluoride ( 747 mg, 4.92 mmol), tetrakis-(triphenylphosphin)-palladium(0) (142 mg, 0.123 mmol) and 3-cyclopentyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (620 g, 2.46 mmol) to give 395 mg of purified compound. MS (m/e): 309.0 (M+Na).

reactant | 2-bromo-5-methanesulfonyl-thiophene | 2.46 mmol, 593 mg | BrC=1SC(=CC1)S(=O)(=O)C | C5H5BrO2S2
reactant | caesium fluoride | 4.92 mmol, 747 mg | [F-].[Cs+]
reactant | 3-cyclopentyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 2.46 mmol, 620 g | C1(CCCC1)C=C(CO)B1OC(C(O1)(C)C)(C)C | C14H25BO3
catalyst | tetrakis-(triphenylphosphin)-palladium(0) | 0.123 mmol, 142 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (Z)-3-Cyclopentyl-2-(5-methanesulfonyl-thiophen-2-yl)-prop-2-en-1-ol | 395 mg | C1(CCCC1)\C=C(\CO)/C=1SC(=CC1)S(=O)(=O)C | C13H18O3S2
